US04242519
Methyl α-methylthio(2-thienyl)acetate (1.980 g) was dissolved in 20 ml of anhydrous dimethylformamide, and with stirring at room temperature, 400 mg (65% content) of sodium hydride was added, whereupon hydrogen evolved vigorously. Ten minutes later, the reaction solution was cooled with ice, and 0.75 ml of methyl iodide was added over the course of 1 minute. The mixture was stirred at room temperature for 1 hour. An aqueous solution of ammonium chloride (0.50 g/30 ml) was added, and the mixture was extracted four times with 20 ml of diethyl ether. The organic layer was washed four times with 10 ml of water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using benzene as an eluent to afford 1.949 g of methyl α-methylthio-α-(2-thienyl)propionate in a yield of 92%.

reactant | Methyl α-methylthio(2-thienyl)acetate | 1.980 g | CSC(C(=O)OC)C=1SC=CC1 | C8H10O2S2
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.75 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 0.50 g | [Cl-].[NH4+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(2-thienyl)propionate | 1.949 g, yield of 92% | CSC(C(=O)OC)(C)C=1SC=CC1 | C9H12O2S2
